US07781478B2
To a solution of 2-(4-aminophenyl)-1-cyclobutyl-6-hydroxy-1H-indole-3-carbonitrile (909 mg, 3 mmol) in pyridine (5 mL) is added 4-nitrophenyl chloroformate (6 mmol) at room temperature and then stirred for 2 h at room temperature. To the reaction is added cyclopropyl methyl carbinol and then stirred for 8 h at 80° C. The reaction mixture is diluted with 1N HCl and then extracted with ethyl acetate. The organic layer is concentrated and the residue is dissolved in EtOAc and triturated with hexane. The precipitate is collected by filtration and washed with hexane and dried in vacuo to afford [4-(3-cyano-1-cyclobutyl-6-hydroxy-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester (996 mg, 80%).

reactant | 2-(4-aminophenyl)-1-cyclobutyl-6-hydroxy-1H-indole-3-carbonitrile | 3 mmol, 909 mg | NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)O)C1CCC1 | C19H17N3O
reactant | 4-nitrophenyl chloroformate | 6 mmol | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | cyclopropyl methyl carbinol | C1(CC1)C(O)C | C5H10O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | HCl | 1N | Cl | ClH
product | [4-(3-cyano-1-cyclobutyl-6-hydroxy-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester | 996 mg, 80% | C1(CC1)C(C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)O)C1CCC1)=O | C25H25N3O3
